US06239131B1
Preparation of 1-(2-thenoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Thenoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.00 g) was dissolved in 4N HCl-dioxane (10 ml), the solution was stirred for one hour at 55° C. The reaction mixture was concentrated under reduced pressure. The residue was neutralized with saturated aqueous sodium bicarbonate, extracted with methylene chloride. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 0.74 g of the titled compound as brown crystals (Yield: 92%).

reactant | 1-(2-Thenoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | C1(=CC=CS1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O | C26H33N3O5S
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-thenoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.74 g, Yield: 92% | C1(=CC=CS1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)N)=O | C21H25N3O3S
